US06255333B1
3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(2-methylprop-1-enyl)pyrazole
Isopropyltriphenylphosphonium iodide (0.97 g) in anhydrous ether (10 ml) was treated at room temperature with n-butyllithium (0.9 ml of a 2.5M solution in hexanes). To the resulting dark red solution was added 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-formylpyrazole (0.6 g) in ether (20 ml) and the mixture stirred for 2 hours. The solution was washed with water (20 ml) and the separated organic layer dried (MgSO4) and evaporated. The residue was purified by column chromatography on silica gel eluted with dichloromethane. Combination and evaporation of suitable fractions provided the title compound as a pale tan solid m.p. 72-74° C.

reactant | Isopropyltriphenylphosphonium iodide | 0.97 g | [I-].C(C)(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-formylpyrazole | 0.6 g | C(#N)C1=NN(C=C1C=O)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C12H4Cl2F3N3O
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(2-methylprop-1-enyl)pyrazole | C(#N)C1=NN(C=C1C=C(C)C)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C15H10Cl2F3N3
